US09326987B2
6-Bromo-4-{5-[(8aS)-hexahydropyrrolo[1,2-a]pyrazin-2(1H)-ylmethyl]-1,3,4-oxadiazol-2-yl}-1-(phenylsulfonyl)-1H-indazole
6-Bromo-4-[5-(chloromethyl)-1,3,4-oxadiazol-2-yl]-1-(phenylsulfonyl)-1H-indazole (300 mg, 0.661 mmol) and sodium iodide (99 mg, 0.661 mmol) were weighed into a round-bottomed flask and dissolved in acetonitrile (2 ml) before (S)-1,4-diazabicyclo[4.3.0]nonane (167 mg, 1.322 mmol, available from ABCR GmbH & CO. KG) and DIPEA (0.231 ml, 1.322 mmol) were added. The mixture was heated to 70° C. for 2 h. The mixture was cooled, diluted with DCM and washed with 2 M aqueous HCl (2 ml). The organic layer was separated by hydrophobic frit. The aqueous extracts were combined and neutralised to pH 7 with NaOH then extracted with more DCM (2×10 ml) which was combined with the other organic extracts and evaporated under a stream of nitrogen to give an orange oil. This was dissolved in DCM and loaded onto the top of a 10 g silica cartridge that was subsequently eluted with 0-15% MeOH (+1% triethylamine)/DCM over 15 mins. The appropriate fractions were combined and the solvent removed in vacuo to give the title compound as a cream solid (220 mg).

reactant | 6-Bromo-4-[5-(chloromethyl)-1,3,4-oxadiazol-2-yl]-1-(phenylsulfonyl)-1H-indazole | 0.661 mmol, 300 mg | BrC1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=CC=C1)C=1OC(=NN1)CCl | C16H10BrClN4O3S
reactant | sodium iodide | 0.661 mmol, 99 mg | [I-].[Na+]
reactant | (S)-1,4-diazabicyclo[4.3.0]nonane | 1.322 mmol, 167 mg | N12CCNC[C@@H]2CCC1 | C7H14N2
reactant | DIPEA | 1.322 mmol, 0.231 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 6-Bromo-4-{5-[(8aS)-hexahydropyrrolo[1,2-a]pyrazin-2(1H)-ylmethyl]-1,3,4-oxadiazol-2-yl}-1-(phenylsulfonyl)-1H-indazole | 220 mg | BrC1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=CC=C1)C=1OC(=NN1)CN1C[C@H]2N(CC1)CCC2 | C23H23BrN6O3S
